US07947690B2
A mixture of 2-(4-chloro-2,5-difluorophenyl)-5,7-dihydrothieno[3,4-d]pyrimidin-4(1H)-one and phosphorous oxychloride was stirred at 90° C. for 4 hours to yield 4-chloro-2-(4-chloro-2,5-difluorophenyl)-5,7-dihydrothieno[3,4-d]pyrimidine.

reactant | 2-(4-chloro-2,5-difluorophenyl)-5,7-dihydrothieno[3,4-d]pyrimidin-4(1H)-one | ClC1=CC(=C(C=C1F)C1=NC(C2=C(N1)CSC2)=O)F | C12H7ClF2N2OS
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-(4-chloro-2,5-difluorophenyl)-5,7-dihydrothieno[3,4-d]pyrimidine | ClC=1C2=C(N=C(N1)C1=C(C=C(C(=C1)F)Cl)F)CSC2 | C12H6Cl2F2N2S
